US05663297
Analogously to Example 1 B)a), by coupling Z-Gly-OH and H-Asp(OtBu)-OMe there is obtained Z-Gly-Asp(OtBu)-OMe, m.p. 92°-95° C.(hexane), yield: 89% of theory.

reactant | Z-Gly-OH | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
reactant | H-Asp(OtBu)-OMe | N[C@@H](CC(OC(C)(C)C)=O)C(=O)OC | C9H17NO4
solvent | hexane | CCCCCC | C6H14
product | Z-Gly-Asp(OtBu)-OMe | yield: 89% | N(CC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C19H26N2O7
